US07745641B2
4-Hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.145 g, 0.314 mmol) was dissolved in N,N-dimethylacetoamide (1.5 mL), and the solution was added with chlorosulfonamide (0.0440 mL, 0.377 mmol), followed by stirring at room temperature for 1 hour. The reaction mixture was added with water and extracted with chloroform. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by flash column chromatography (chloroform/methanol=85/15) to obtain 4-sulfamoyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (0.0914 g, yield 54%).

reactant | 4-Hydroxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.314 mmol, 0.145 g | OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H31N3O4
reactant | chlorosulfonamide | 0.377 mmol, 0.0440 mL | ClS(=O)(=O)N | ClH2NO2S
reactant | water | O | H2O
solvent | N,N-dimethylacetoamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
product | 4-sulfamoyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.0914 g, yield 54% | S(N)(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C27H32N4O6S
